US07692005B2
5-Chloro-1-methyl-1H-pyrazole-4-carboxylic acid [3-(3-{[4-(4-methyl-piperazin-1-yl)-phenylamino]-methylene}-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide
A small screw cap test tube was charged with 5-Chloro-1-methyl-1H-pyrazole-4-carboxylic acid [3-(3-hydroxymethylene-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide (prepared below, 100 mg, 0.237 mmol) and THF (2.5 mL). To the resulting solution was added 4-(4-methyl-piperazin-1-yl)-phenylamine (59.2 mg, 0.309 mmol), and the mixture was stirred for 24 h at 65° C. Subsequently, the reaction mixture was cooled to room temperature and diluted with EtOAc (5 mL) and Hexanes (40 mL). The precipitate that formed was then filtered and washed with acetone (5 mL) to afford the title compound in 71% yield (0.100 g, 0.168 mmol).

reactant | 5-Chloro-1-methyl-1H-pyrazole-4-carboxylic acid [3-(3-hydroxymethylene-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide | 0.237 mmol, 100 mg | OC=C1C(NC2=CC(=CC=C12)C(=O)C=1C=C(C=CC1)NC(=O)C=1C=NN(C1Cl)C)=O | C21H15ClN4O4
reactant | THF | 2.5 mL | C1CCOC1 | C4H8O
reactant | 4-(4-methyl-piperazin-1-yl)-phenylamine | 0.309 mmol, 59.2 mg | CN1CCN(CC1)C1=CC=C(C=C1)N | C11H17N3
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
product | 5-Chloro-1-methyl-1H-pyrazole-4-carboxylic acid [3-(3-{[4-(4-methyl-piperazin-1-yl)-phenylamino]-methylene}-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide | 71% yield | CN1CCN(CC1)C1=CC=C(C=C1)NC=C1C(NC2=CC(=CC=C12)C(=O)C=1C=C(C=CC1)NC(=O)C=1C=NN(C1Cl)C)=O | C32H30ClN7O3
